datasets/10k_Mayr_OG.csv
SMILES Labelled
"CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[CH:22]=[C:23](C3=CC=CC=C3)[C:24](=[O:25])[C:33](C3=CC=CC=C3)=[CH:32]2)[CH:46]=[CH:45]1.C[N-:10][C:61](C(F)(F)F)=[O:62]>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([N:10](C)[C:61](C(F)(F)F)=[O:62])[C:21]2=[CH:22][C:23](C3=CC=CC=C3)=[C:24]([O-:25])[C:33](C3=CC=CC=C3)=[CH:32]2)[CH:46]=[CH:45]1 10=20;20,21=21,22;22,23=23,24;24,25=25"
"CC[O:33][C:22](/[CH:21]=[CH:20]/[C:41](=[O:42])[O:52]CC)=[O:23].C[Si:11](C)([H:10])[O:62][Si:63](C)(C)C>>CC[O:33][C:22](=[CH:21][CH:20]([H:10])[C:41](=[O:42])[O:52]CC)[O-:23].C[Si+:11](C)[O:62][Si:63](C)(C)C 10,11=10,20;20,21=21,22;22,23=23"
"Br[CH-:10][S:61](C1=CC=CC=C1)(=[O:62])=[O:72].C1C[C:20](=[O:21])CCO1>>Br[CH:10]([C:20]1([O-:21])CCOCC1)[S:61](C1=CC=CC=C1)(=[O:62])=[O:72] 10=20;20,21=21"
"CC[O:33][C:22]([C:21](C)=[CH2:20])=[O:23].C[C:11](C)=[CH2:10]>>CC[O:33][C:22](=[C:21](C)[CH2:20][CH2:10][C+:11](C)C)[O-:23] 10,11=10,20;20,21=21,22;22,23=23"
"CC1=CC=[C:10]([B-:11]([F:62])([F:72])[F:82])O1.C[C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]1)=[O:23]>>CC1=CC=[C:10]([CH:20]([CH:21]=[C:22](C)[O-:23])[C:31]2=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]2)O1.[B:11]([F:62])([F:72])[F:82] 10,11=10,20;20,21=21,22;22,23=23"
"C[C:11]1=[CH:10]CCCC1.C[N+:21](C)=[CH:20][C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1>>C[C+:11]1CCCC[CH:10]1[CH:20]([N:21](C)C)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1 10,11=10,20;20,21=21"
"CC[O:62]/[C:11](=[CH:10]/[N:71]=[CH:72]/[C:73]1=[CH:74][CH:75]=[C:76](Cl)[CH:85]=[CH:84]1)[O-:12].FC(F)(F)[C:53]1=[CH:54][CH:55]=[CH:56][C:51]([C+:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)=[CH:52]1>>CC[O:62][C:11]([CH:10]([C:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][C:53](C(F)(F)F)=[CH:54][CH:55]=[CH:56]1)/[N:71]=[CH:72]/[C:73]1=[CH:74][CH:75]=[C:76](Cl)[CH:85]=[CH:84]1)=[O:12] 10,11=10,20;12=11,12"
F[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)=[CH:32]1.[N-:10]1[CH:61]=[CH:62][N:72]=[CH:71]1>>F[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([CH:20]([N:10]2[CH:61]=[CH:62][N:72]=[CH:71]2)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)=[CH:32]1 10=20
"C[C:11](=[CH2:10])[CH2:62][Si:63](Cl)(Cl)Cl.[O+]#C[Fe-2:21]1234(C#[O+])(C#[O+])C5CC[CH:20]1C2C3C54>>C[C+:11]([CH2:10][CH:20]1CCC2C3C4C1[Fe-3:21]234(C#[O+])(C#[O+])C#[O+])[CH2:62][Si:63](Cl)(Cl)Cl 10,11=10,20;20,21=21"
"CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][C:43](C)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1.[CH2:10]=[CH:11][C:62]1=[CH:63][CH:64]=[CH:65][CH:75]=[CH:73]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([CH2:10][CH+:11][C:62]2=[CH:63][CH:64]=[CH:65][CH:75]=[CH:73]2)([C:41]2=[CH:42][C:43](C)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10,11=10,20"
"C1=CC=C([P+:61](C2=CC=CC=C2)(C2=CC=CC=C2)[CH:10]=[C:11]=[N-:12])C=C1.CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([CH:10]([C:11]#[N:12])[P+:61](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)([C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
"CC12C3C4C5C1[W-3:11]4532(C#[O+])(C#[O+])(C#[O+])[H:10].FC(F)(F)[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CC12C3C4C5C1[W-2:11]4532(C#[O+])(C#[O+])C#[O+].FC(F)(F)[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([H:10])([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10,11=10,20"
"CC(C)[Si:11](C(C)C)(C(C)C)[H:10].CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]=[O+:21]C)[CH:35]=[CH:36]1>>CC(C)[Si+:11](C(C)C)C(C)C.CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([H:10])[O:21]C)[CH:35]=[CH:36]1 10,11=10,20;20,21=21"
"CCCC/[C:10](=[C:11](/[O-:12])[O:61]CC)[C:72](=[O:73])[O:83]CC.CC[O:33][C:22](/[CH:21]=[CH:20]/[C:41](=[O:42])[O:52]CC)=[O:23]>>CCCC[C:10]([C:11](=[O:12])[O:61]CC)([CH:20]([CH:21]=[C:22]([O-:23])[O:33]CC)[C:41](=[O:42])[O:52]CC)[C:72](=[O:73])[O:83]CC 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
FC(F)(F)[S:61]([CH-:10][C:81]1=[CH:82][CH:83]=[C:84](C(F)(F)F)[CH:93]=[CH:92]1)(=[O:62])=[O:72].[O+]#C[Co-3:32]12(C#[O+])(C#[O+])C3[C:31]1([CH+:20][C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1)[Co-3:42]32(C#[O+])(C#[O+])[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1>>[O+]#C[Co-3:32]12(C#[O+])(C#[O+])C3[C:31]1([CH:20]([CH:10]([S:61](C(F)(F)F)(=[O:62])=[O:72])[C:81]1=[CH:82][CH:83]=[C:84](C(F)(F)F)[CH:93]=[CH:92]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1)[Co-3:42]32(C#[O+])(C#[O+])[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20
